C1 0 4 841f
C2 0 1 51f
C3 0 2 586f
C4 1 3 172f
C5 1 2 131f
C6 1 7 647f
C7 3 4 5f
C8 3 5 657f
C9 4 6 170f
C10 5 6 421f
Vsource 1 0 DC 0V AC 1V SIN(0V 1V 1kHz 0s 0Hz)
.tran 10us 1ms
.end
.plot tran 4